US03941806
1,2-Dihydro-4-methyl-5-phenylpyrrolo[3,2,1-hi]indole
A mixture of 50 g. (0.372 mole) of 1-aminoindole, 50 g. (0.372 mole) of phenylacetone, 600 ml. of acetic acid and 50 g. of sodium acetate was heated for one hour on a steam bath. The precipitate which separated from the cooled mixture was collected and washed with isopropyl ether. The product melted at 145°C. The literature m.p. is 145°C., Chemical Abstracts 54, 19641 (1960).

reactant | 1-aminoindole | 0.372 mole | NN1C=CC2=CC=CC=C12 | C8H8N2
reactant | phenylacetone | 0.372 mole | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2-Dihydro-4-methyl-5-phenylpyrrolo[3,2,1-hi]indole | CC1=C(C=2C=CC=C3CCN1C23)C2=CC=CC=C2 | C17H15N
